US04855444
A solution of 113 g (1 mole) of 5,5-dimethylpyrrolid-2-one and 96 g (3 moles) of methanol was vaporized, and passed over an alumina catalyst at 400° C. Working up the gas mixture in a conventional manner to obtain 1,5,5-trimethylpyrrolid-2-one gives this compound in about 86% yield; boiling point: 236°-238° C.

reactant | 5,5-dimethylpyrrolid-2-one | 1 mole, 113 g | CC1(CCC(N1)=O)C | C6H11NO
reactant | methanol | 3 moles, 96 g | CO | CH4O
product | 1,5,5-trimethylpyrrolid-2-one | about 86% yield | CN1C(CCC1(C)C)=O | C7H13NO
